US05731331
A solution of 13.4 g (38.2 mmol) of 1-[4-(4-hydroxy-4-phenyl-1-piperidyl)butyl]-1H-benzimidazole, 150 ml of concentrated HCl and 75 ml of ethanol is heated at reflux for 6 hours. The ethanol is then evaporated and the aqueous solution is cooled, basified with dilute NaOH and extracted with chloroform. The organic phase is dried with anhydrous sodium sulfate and evaporated at reduced pressure, a crude product being obtained which is purified by chromatography on silica gel. 9.1 g (27.5 mmol) of 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]-1H-benzimidazole are obtained.

reactant | 1-[4-(4-hydroxy-4-phenyl-1-piperidyl)butyl]-1H-benzimidazole | 38.2 mmol, 13.4 g | OC1(CCN(CC1)CCCCN1C=NC2=C1C=CC=C2)C2=CC=CC=C2 | C22H27N3O
reactant | HCl | 150 ml | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]-1H-benzimidazole | 27.5 mmol, 9.1 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C=NC2=C1C=CC=C2 | C22H25N3
